US05681958
3-Chloro-2-(bromoacetamido)benzoic Acid
A solution of 2-amino-3-chlorobenzoic acid (7 g, 0.041 mol), anhydrous DMF (20 mL) and anhydrous dioxane (20 mL) was cooled to 0° C. in a 250 mL 3-necked flask, fitted with a magnetic stirrer and constant additional funnel. Bromoacetyl bromide was added dropwise over a 27 min period, keeping the internal temperature between 0° to 2° C. After the addition was complete, the solution was allowed to warm to room temperature and stirring was continued for 4 hours. The reaction mixture was cooled in an ice-bath and diluted with water (100 mL). The resulting yellow precipitate was filtered, washed with water and dried in vacuum oven for 2 days, affording 7.7 g (65%) of the title compound as a light yellow crystals, mp 173°-175° C.; 1H NMR (CD3OD) 7.88 (dd, 1H, J=1.6, J=6), 7.68 (dd, 1H, J=1.2, J=6.8), 7.39 (t, 1H, J=8); 13C NMR (CD3OD) δ 176.37, 168.38, 134.84, 134.40, 131.95, 130.53, 129.15, 129.05, 28.66; MS (EI, m/z) 293 (M+).

reactant | 2-amino-3-chlorobenzoic acid | 0.041 mol, 7 g | NC1=C(C(=O)O)C=CC=C1Cl | C7H6ClNO2
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
reactant | dioxane | 20 mL | O1CCOCC1 | C4H8O2
reactant | Bromoacetyl bromide | BrCC(=O)Br | C2H2Br2O
solvent | water | 100 mL | O | H2O
product | 3-Chloro-2-(bromoacetamido)benzoic Acid | 7.7 g, 65% | ClC=1C(=C(C(=O)O)C=CC1)NC(CBr)=O | C9H7BrClNO3
